US03963706
b. 1-(p-Chlorophenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one
2-(p-Chloroanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide (3g)was dissolved in ethanol (40 ml) and paraformaldehyde (0.5g) in water (80 ml) added thereto. The mixture was refluxed for 3 hours, cooled and filtered to yield the title product (2.1g), m.p. 222°-225°(ethanol).

reactant | 2-(p-Chloroanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide | ClC1=CC=C(NCC(=O)NC2=C(C=C(C=C2)S(N)(=O)=O)Cl)C=C1 | C14H13Cl2N3O3S
reactant | paraformaldehyde | 0.5g | C=O | CH2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | 1-(p-Chlorophenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one | 2.1g | ClC1=CC=C(C=C1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)Cl | C15H13Cl2N3O3S
